US06784317B2
The reaction was carried out in the same manner as in Example 7 except for using in the second step 105 g (0.5 mol) of a 42% aqueous solution of tetrafluoroboric acid in place of the ethanol solution thereof, and 110 g (6.1 mol) of an aqueous solution of triethylmethylammonium 2-hydroxyisobutyrate in place of the ethanol solution thereof. No generation of gas due to by-production was observed, and the reaction liquid was homogeneous. The still residue after evaporation of the reaction liquid to dryness was recrystallized from ethanol and vacuum dried to obtain 89 g (0.44 mol) of triethylmethylammonium tetrafluoroborate. The purity was 99.0% by weight, the yield was 88.7 mol % based on triethylmethylammonium 2-hydroxyisobutyrate, and the moisture content of the crystal was 360 ppm.

reactant | tetrafluoroboric acid | F[B-](F)(F)F.[H+]
reactant | triethylmethylammonium 2-hydroxyisobutyrate | OC(C(=O)[O-])(C)C.C(C)[N+](C)(CC)CC
product | triethylmethylammonium tetrafluoroborate | 0.44 mol, 89 g | F[B-](F)(F)F.C(C)[N+](C)(CC)CC | InChI=1S/C7H18N.BF4/c1-5-8(4,6-2)7-3;2-1(3,4)5/h5-7H2,1-4H3;/q+1;-1
